US04722935
Preparation of 2,2-difluoro-4-[2',4'-dinitro-6'-(trifluoromethyl)anilino]-1,3-benzodioxole
20.8 g of LiOH.H2O are added at 0° C. to a solution of 24.5 g of 2,2-difluoro-4-amino-1,3-benzodioxole in 70 ml of dimethyl sulfoxide. The mixture is then stirred for 20 minutes. Subsequently, a solution of 38.3 g of 2,4-dinitro-6-trifluoromethylchlorobenzene in 70 ml of dimethyl sulfoxide is added, and the resultant reaction mixture is stirred at 0° C. for 20 minutes and then heated to room temperature. After 5 hours, the mixture is poured into 350 ml of water, acidified with dilute hydrochloric acid and extracted several times with diethyl ether. The combined ether phases are washed three times with a 5% solution of sodium carbonate and then with 5% hydrochloric acid and dried over sodium sulfate, and the solvent is evaporated off in vacuo. The residue comprises 51.6 g of orange-brown crystals which are recrystallised in toluene. Yield: 41.6 g; melting point: 144°-146° C.

reactant | LiOH.H2O | 20.8 g | O[Li].O
reactant | 2,2-difluoro-4-amino-1,3-benzodioxole | 24.5 g | FC1(OC2=C(O1)C=CC=C2N)F | C7H5F2NO2
reactant | 2,4-dinitro-6-trifluoromethylchlorobenzene | 38.3 g | [N+](=O)([O-])C1=C(C(=CC(=C1)[N+](=O)[O-])C(F)(F)F)Cl | C7H2ClF3N2O4
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 70 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 70 ml | CS(=O)C | C2H6OS
solvent | water | 350 ml | O | H2O
product | 2,2-difluoro-4-[2',4'-dinitro-6'-(trifluoromethyl)anilino]-1,3-benzodioxole | FC1(OC2=C(O1)C=CC=C2NC2=C(C=C(C=C2C(F)(F)F)[N+](=O)[O-])[N+](=O)[O-])F | C14H6F5N3O6
